US03939271
The solution of 1.86 g of 5-chloro-2-(1-methyl-4-dimethylaminomethyl-5-pyrazolyl)-2'-fluorobenzophenone in 100 ml of ethanol is stirred for 21/2 hours at room temperature with 500 mg sodium borohydride. It is evaporated under reduced pressure and the residue shaken with methylene chloride and 5% aqueous sodium hydroxide. After drying the organic layer and removal of the solvent, the residue is crystallized from diethyl ether-hexane, to yield the α-[5-chloro-2-(1-methyl-4-dimethylaminomethyl-5-pyrazolyl)-phenyl]-2fluorobenzyl alcohol melting at 125° to 127°; the hydrochloride thereof melts at 225°-230°.

reactant | 5-chloro-2-(1-methyl-4-dimethylaminomethyl-5-pyrazolyl)-2'-fluorobenzophenone | 1.86 g | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2)F)C1)C1=C(C=NN1C)CN(C)C | C20H19ClFN3O
reactant | sodium borohydride | 500 mg | [BH4-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | α-[5-chloro-2-(1-methyl-4-dimethylaminomethyl-5-pyrazolyl)-phenyl]-2fluorobenzyl alcohol | ClC=1C=CC(=C(C1)C(C1=C(C=CC=C1)F)O)C1=C(C=NN1C)CN(C)C | C20H21ClFN3O
